US08008303B2
5′-Cyano-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide
A mixture of 5′-cyano-2′-methyl-biphenyl-4-carboxylic acid (100 mg), 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine (101 mg), EDAC (81 mg), HOBT (57 mg) and N-methylmorpholine (0.09 ml) in dry DMF (2 ml) was stirred at 20 C for 18 h. Water (8 ml) was then added and the resulting solid collected by filtration and dried (160 mg).

reactant | 5′-cyano-2′-methyl-biphenyl-4-carboxylic acid | 100 mg | C(#N)C=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C15H11NO2
reactant | 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine | 101 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
reactant | EDAC | 81 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.09 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Water | 8 ml | O | H2O
product | 5′-Cyano-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C#N)C)=O | C26H25N3O3S
